US04694081
Wong et al U.S. Pat. No. 4,400,330 describes the preparation of bis-phosphonomethyl-2,5-diketopiperazine by phosphonomethylation of 2,5-diketopiperazine, followed by hydrolysis of the bis-phosphonomethyl-2,5-diketopiperazine to produce glyphosate. In the phosphonomethylation, formaldehyde and glacial acetic acid are added to 2,5-diketopiperazine to produce a suspension which is refluxed. Thereafter, phosphorus trichloride is added to the reaction mixture which is then maintained at reflux until all hydrogen chloride by-product has been driven off. After additional refluxing of the reaction slurry, the product is dried in vacuo, dissolved in water, and treated sequentially with caustic solution and mineral acid to effect hydrolysis and produce glyphosate.

reactant | bis-phosphonomethyl-2,5-diketopiperazine | P(=O)(O)(O)CN1CC(N(CC1=O)CP(=O)(O)O)=O | C6H12N2O8P2
reactant | 2,5-diketopiperazine | O=C1NCC(NC1)=O | C4H6N2O2
product | glyphosate | C(C(=O)O)NCP(=O)(O)O | C3H8NO5P
